US08609644B2
6,6-Ethylendioxyandrostane-3β,17β-diol was prepared in 70% yield from 3β,17β-dihydroxyandrostan-6-one by the procedure described above for the preparation of 3,3:17,17-bis(ethylendioxy)-5-androstene (Prepn. 5). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness to give 6,6-ethylendioxyandrostane-3β,17β-diol. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.45 (d, 1H), 4.41 (d, 1H), 3.90-3.57 (m, 4H), 3.41 (m, 1H), 3.29 (m, 1H), 1.87-0.53 (m, 20H), 0.84 (s, 3H), 0.60 (s, 3H).

reactant | 3β,17β-dihydroxyandrostan-6-one | O[C@@H]1CC2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)=O | C19H30O3
reactant | 17,17-bis(ethylendioxy)-5-androstene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC4 | C23H34O4
product | 6,6-Ethylendioxyandrostane-3β,17β-diol | 70% yield | C1OC2(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]3(CC[C@@H](CC23)O)C)O)OC1 | C21H34O4
